US07812167B2
To a solution of diisopropylamine (1.0 mmol, 0.10 g) in 7 mL of THF and 3 mL of DMPU at 0° C. is added n-BuLi (0.61 mL, 2.5 M in hexane) and the reaction mixture is stirred for 15 min, then cooled to −78° C. The title C compound, C-(4-methane-sulfonyl-phenyl)-N-thiazol-2-yl-methanesulfonamide (0.693 mmol, 0.23 g) is added and the reaction mixture is allowed to warm to 0° C. After 1 h, the reaction is recooled to −78° C., cyclopentylmethyliodide (0.72 mmol, 0.15 g) is added and the reaction is allowed to warm to RT over 3 h. The reaction mixture is poured into aqueous 1 N HCl, and the product is taken up in EtOAc, dried and evaporated to afford an orange oil. Chromatography on silica affords 2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethanesulfonic acid thiazol-2-ylamide: 1H NMR δ 11.6 (br s, 1H), 7.84 (d, J=8, 2H), 7.58 (d, J=8, 2H), 6.67 (d, J=4.5, 1H), 6.39 (d, J=4.5, 1H); 4.27 (m, 1H), 3.03 (s, 3H), 2.04-2.2 (m, 1H), 1.12-1.61 (m, 10H); e/z (ES) 415 (M+1, 100%).

reactant | diisopropylamine | 1.0 mmol, 0.10 g | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 2.5 M, 0.61 mL | [Li]CCCC
reactant | C-(4-methane-sulfonyl-phenyl)-N-thiazol-2-yl-methanesulfonamide | 0.693 mmol, 0.23 g | CS(=O)(=O)C1=CC=C(C=C1)CS(=O)(=O)NC=1SC=CN1 | C11H12N2O4S3
reactant | cyclopentylmethyliodide | 0.72 mmol, 0.15 g | C1(CCCC1)CI | C6H11I
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | DMPU | 3 mL | CN1CCCN(C1=O)C | C6H12N2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethanesulfonic acid thiazol-2-ylamide | S1C(=NC=C1)NS(=O)(=O)C(CC1CCCC1)C1=CC=C(C=C1)S(=O)(=O)C | C17H22N2O4S3
